US08981085B2
4-Bromo-1-(triisopropylsilyl)-1H-pyrrolo[2,3-b]pyridine (50 g, 141.5 mmol) in THF (2 L) at −78° C. was treated dropwise with tert-butyllithium (166.5 mL, 283.0 mmol, 1.7M in pentane). The reaction was then stirred for 15 minutes. N-Fluoro-N-(phenylsulfonyl)benzenesulfonamide (49.08 g, 155.6 mmol) in THF (200 mL) was then added dropwise, and the mixture was stirred at −78° C. After 2 hours, the reaction was quenched at −78° C. with saturated aqueous NH4Cl (200 mL). The aqueous phase was extracted with hexanes. The combined hexane phases were dried (MgSO4) and passed through a plug of silica gel eluting with hexanes. The combined hexanes fractions were concentrated in vacuo to provide 4-fluoro-1-(triisopropylsilyl)-1H-pyrrolo[2,3-b]pyridine (36.1 g, 87% yield) as an oil. 1H NMR (400 MHz, CDCl3) δ □18.18 (dd, 1H), 7.25 (d, 1H), 6.76 (dd, 1H), 1.86-1.81 (m, 3H), 1.13 (d, 18H).

reactant | 4-Bromo-1-(triisopropylsilyl)-1H-pyrrolo[2,3-b]pyridine | 141.5 mmol, 50 g | BrC1=C2C(=NC=C1)N(C=C2)[Si](C(C)C)(C(C)C)C(C)C | C16H25BrN2Si
reactant | tert-butyllithium | 283.0 mmol, 1.7M, 166.5 mL | C(C)(C)(C)[Li]
reactant | N-Fluoro-N-(phenylsulfonyl)benzenesulfonamide | 155.6 mmol, 49.08 g | FN(S(=O)(=O)C1=CC=CC=C1)S(=O)(=O)C1=CC=CC=C1 | C12H10FNO4S2
solvent | THF | 2 L | C1CCOC1 | C4H8O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 4-fluoro-1-(triisopropylsilyl)-1H-pyrrolo[2,3-b]pyridine | 36.1 g, 87% yield | FC1=C2C(=NC=C1)N(C=C2)[Si](C(C)C)(C(C)C)C(C)C | C16H25FN2Si
